US07429597B2
7-[(2S)-2-benzhydryl-pyrrolidin-1-yl-carbonyl]-6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-quinazoline
Prepared analogously to Example 37a from 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline, pentafluorophenyl-tetramethyluronium-hexafluorophosphate (PFTU), diisopropylethylamine and (S)-2-benzhydryl-pyrrolidine in DMSO at ambient temperature.

reactant | 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C18H13Cl2N5O2
reactant | pentafluorophenyl-tetramethyluronium hexafluorophosphate | FC1=C(C(=C(C(=C1OC(=[N+](C)C)N(C)C)F)F)F)F.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-2-benzhydryl-pyrrolidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1NCCC1 | C17H19N
solvent | DMSO | CS(=O)C | C2H6OS
product | 7-[(2S)-2-benzhydryl-pyrrolidin-1-yl-carbonyl]-6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-quinazoline | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1N(CCC1)C(=O)C1=C(C=C2C(=NC=NC2=C1)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl)Cl | C35H30Cl2N6O
